US05451605
Ethyl 6-[2-(2,6,6-trimethylcyclohex-1-enyl)ethynyl]-2-naphthoate (Compound 3)
To a solution of 0.503 g (3.3916 mmol) 1,3,3-trimethyl-2-ethynylcyclohexene (G. Kobrich et al. Chem Ber., 1966, 99,689.) in 4 ml of dry tetrahydrofuran at 0 degrees C. under argon was added dropwise 2.1 ml of 1.6M (3.36 mmol) of n-butyllithium in hexane. This mixture was stirred at 0 degrees C. for 10 minutes, at room temperature for 10 minutes and cooled again to 0 degrees C. To this was added, via cannula, a solution of 0.480 g (3.52 mmol) fused zinc chloride in 4 ml of tetrahydrofuran with stirring at 0 degrees C. for 40 minutes and at room temperature for 5 minutes. A solution of 0.9186 g (3.29 mmol) of ethyl 6-bromo-2-naphthoate (Anderson, L. C. J. Am. Chem. Soc., 1943, 65,242.) in 5 ml of dry tetrahydrofuran was transferred by cannula into a suspension of 0.410 g (0.3584 mmol) tetrakis(triphenylphosphine)palladium in 5 ml of dry tetrahydrofuran and stirred for 5 minutes at room temperature. This mixture was then treated via cannula with the solution of alkynyl zinc and the resultant mixture stirred at room temperature for 18 hours. Ice and 30 ml of 3N HCl was added and the products extracted with 4×50 ml ether. The combined ether extracts were washed with saturated NaHCO3 and NaCl solution, dried (MgSO4) and concentrated to give a brown oil. This oil was purified by HPLC (Waters 6000; Partisil M-9 10/50; 2% ethyl acetate in hexanes) to give the title compound as a yellow oil.

reactant | 1,3,3-trimethyl-2-ethynylcyclohexene | 3.3916 mmol, 0.503 g | CC1=C(C(CCC1)(C)C)C#C | C11H16
reactant | n-butyllithium | 3.36 mmol, 1.6M | C(CCC)[Li]
reactant | ethyl 6-bromo-2-naphthoate | 3.29 mmol, 0.9186 g | BrC=1C=C2C=CC(=CC2=CC1)C(=O)OCC | C13H11BrO2
reactant | HCl | 3N, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.3584 mmol, 0.410 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 6-[2-(2,6,6-trimethylcyclohex-1-enyl)ethynyl]-2-naphthoate | CC1=C(C(CCC1)(C)C)C#CC=1C=C2C=CC(=CC2=CC1)C(=O)OCC | C24H26O2
